US09062046B2
Step 3: N-(5-(2-(cyanoimino)-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-yl)-4-methylpyridin-2-yl)acetamide
To the stirred solution 2-(cyanoimino)-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-ylboronic acid (0.390 mmol) in dry DMF (5 mL) was added N-(5-bromo-4-methylpyridin-2-yl)acetamide (0.390 mmol) followed by catalyst palladium dichlorobis triphenylphosphine (0.039 mmol). Saturated solution of sodium carbonate (0.780 mmol) was added to it and the resulting solution was heated to 111° C. for 8 minutes in microwave. Solvent was evaporated and the crude material was extracted in EtOAc, washed with brine several times and dried over anhydrous Na2SO4. The solvent was evaporated and the crude solid was purified (silica gel column, CHCl3/MeOH as eluent) to obtain the title compound. 1H NMR (300 MHz, DMSO-d6): δ 10.46 (s, 1H), 9.26 (s, 1H), 9.02 (d, J=2.4 Hz, 1H), 8.35 (dd, J=2.4, 8.4 Hz, 1H), 8.17 (d, J=8.7 Hz, 1H), 7.91 (m, 3H), 7.70 (dd, J=1.8, 8.7 Hz, 1H), 6.60 (s, 1H), 3.90 (s, 3H), 2.08 (s, 3H), 2.00 (s, 3H), 1.70 (s, 6H); MS (m/z): 516 (M+1)+.

reactant | 2-(cyanoimino)-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-ylboronic acid | 0.390 mmol | C(#N)N=C1N(C2=C(C=NC=3C=CC(=CC23)B(O)O)N1C)C=1C=NC(=CC1)C(C)(C)C#N | C21H18BN7O2
reactant | N-(5-bromo-4-methylpyridin-2-yl)acetamide | 0.390 mmol | BrC=1C(=CC(=NC1)NC(C)=O)C | C8H9BrN2O
reactant | sodium carbonate | 0.780 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(5-(2-(cyanoimino)-1-(6-(2-cyanopropan-2-yl)pyridin-3-yl)-3-methyl-2,3-dihydro-1H-imidazo[4,5-c]quinolin-8-yl)-4-methylpyridin-2-yl)acetamide | C(#N)N=C1N(C2=C(C=NC=3C=CC(=CC23)C=2C(=CC(=NC2)NC(C)=O)C)N1C)C=1C=NC(=CC1)C(C)(C)C#N | C29H25N9O
